// full_adder.scs - CMOS Full Adder
// SUM = A ^ B ^ CIN
// COUT = (A & B) | (CIN & (A ^ B))
// Run: spectre full_adder.scs -raw full_adder.raw

simulator lang=spectre

parameters vdd_val=1.8

// MOSFET Models
model nch mos1 type=n vth=0.4 kp=120u
model pch mos1 type=p vth=-0.4 kp=40u

// Supply
V_VDD (vdd 0) vsource dc=vdd_val

// Inputs - cycle through all 8 combinations
// A: period=20n, B: period=40n, CIN: period=80n
// t=5ns:  000
// t=15ns: 100
// t=25ns: 010
// t=35ns: 110
// t=45ns: 001
// t=55ns: 101
// t=65ns: 011
// t=75ns: 111
V_A   (a 0)   vsource type=pulse val0=0 val1=vdd_val delay=10n rise=100p fall=100p width=10n period=20n
V_B   (b 0)   vsource type=pulse val0=0 val1=vdd_val delay=20n rise=100p fall=100p width=20n period=40n
V_CIN (cin 0) vsource type=pulse val0=0 val1=vdd_val delay=40n rise=100p fall=100p width=40n period=80n

// Subcircuits
subckt inverter (in out vdd)
    MP0 (out in vdd vdd) pch w=2u l=1u
    MN0 (out in 0 0) nch w=1u l=1u
ends inverter

subckt nand2 (a b out vdd)
    MP0 (out a vdd vdd) pch w=2u l=1u
    MP1 (out b vdd vdd) pch w=2u l=1u
    MN0 (out a mid 0) nch w=2u l=1u
    MN1 (mid b 0 0) nch w=2u l=1u
ends nand2

subckt nor2 (a b out vdd)
    MP0 (mid a vdd vdd) pch w=4u l=1u
    MP1 (out b mid mid) pch w=4u l=1u
    MN0 (out a 0 0) nch w=1u l=1u
    MN1 (out b 0 0) nch w=1u l=1u
ends nor2

subckt and2 (a b out vdd)
    X_NAND (a b n_out vdd) nand2
    X_INV (n_out out vdd) inverter
ends and2

subckt or2 (a b out vdd)
    X_NOR (a b n_out vdd) nor2
    X_INV (n_out out vdd) inverter
ends or2

subckt xor2 (a b out vdd)
    X_N1 (a b n1 vdd) nand2
    X_N2 (a n1 n2 vdd) nand2
    X_N3 (b n1 n3 vdd) nand2
    X_N4 (n2 n3 out vdd) nand2
ends xor2

subckt full_adder (a b cin sum cout vdd)
    X_X1 (a b axb vdd) xor2
    X_X2 (axb cin sum vdd) xor2
    X_A1 (a b a_and_b vdd) and2
    X_A2 (cin axb c_and_axb vdd) and2
    X_OR (a_and_b c_and_axb cout vdd) or2
ends full_adder

// Full Adder
X_FA (a b cin sum cout vdd) full_adder

// Analysis
tran_test tran stop=100n

save sum cout a b cin
